US03950393
2-Amino-3-bromo-N-cyclohexyl-N-ethyl-5-methoxy-benzylamine was prepared from 2-amino-N-cyclohexyl-N-ethyl-5-methoxy-benzylamine and bromine analogous to Example 9. Proof of structure by IR-, UV- and NMR-spectra. IR-spectrum (methylenechloride):

reactant | 2-amino-N-cyclohexyl-N-ethyl-5-methoxy-benzylamine | NC1=C(CN(CC)C2CCCCC2)C=C(C=C1)OC | C16H26N2O
reactant | bromine | BrBr | Br2
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-bromo-N-cyclohexyl-N-ethyl-5-methoxy-benzylamine | NC1=C(CN(CC)C2CCCCC2)C=C(C=C1Br)OC | C16H25BrN2O
